US06482841B1
A) 2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3,5-di(tetrahydrofuran-2-ylmethyl) ester
A solution of 15 g (0.05 mol) of tetrahydrofuran-2-ylmethyl 3-nitrobenzylidenacetoacetate and 8.7 g (0.05 mol) of (tetrahydrofuran-2-ylmethyl)-3-aminocrotonate in 50 ml of abs ethanol, was refluxed with stirring, in the absence of light, along 8 hours. The reaction mixture was then cooled to −10° C. A yellow soild (mp 122-3° C., EtAcO) was obtained with a yield of 80%.

reactant | tetrahydrofuran-2-ylmethyl 3-nitrobenzylidenacetoacetate | 0.05 mol, 15 g | [N+](=O)([O-])C=1C=C(C=CC(CC(=O)OCC2OCCC2)=O)C=CC1 | C16H17NO6
reactant | (tetrahydrofuran-2-ylmethyl)-3-aminocrotonate | 0.05 mol, 8.7 g | O1C(CCC1)COC(\C=C(\C)/N)=O | C9H15NO3
reactant | ethanol | C(C)O | C2H6O
product | 2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3,5-di(tetrahydrofuran-2-ylmethyl) ester | yield of 80% | O1C(CCC1)COC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC1OCCC1)C)C | C25H30N2O8
